US04672066
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid was allowed to react with 2-(4-pyridinylthio)ethyl amine according to procedure A and the product was purified by crystallization from ethyl acetate-hexane to give 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[2-(4-pyridinylthio)ethyl]hexanamide, the title compound, mp 63°-65°, in 52% yield.

reactant | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | 2-(4-pyridinylthio)ethyl amine | N1=CC=C(C=C1)SCCN | C7H10N2S
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[2-(4-pyridinylthio)ethyl]hexanamide | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)NCCSC2=CC=NC=C2)C=C1)CCC)O | C24H32N2O4S
